US08809536B2
1-[(S)-1-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)methyl]-3-(2-methoxy-phenyl)-pyrrolidine
Toluene-4-sulfonic acid (R)-1-(2,3-dihydro-benzo[1,4]dioxin-2-yl)methyl ester (0.156 mmol), 3-(2-methoxyphenyl)pyrrolidine.HCl (1.55 mmol, 32 mg), K2CO3 (0.342 mmol, 47 mg) and acetonitrile (1 ml) were mixed and heated in a microwave reactor at 120 C.° for 2.5 h. The reaction mixture was filtrated and the solution was absorbed on silica. Flash chromatography, using a gradient of heptane/EtOAc as eluent, gave 20 mg g of the title compound.

reactant | Toluene-4-sulfonic acid (R)-1-(2,3-dihydro-benzo[1,4]dioxin-2-yl)methyl ester | 0.156 mmol | O1[C@H](COC2=C1C=CC=C2)COS(=O)(=O)C2=CC=C(C=C2)C | C16H16O5S
reactant | 3-(2-methoxyphenyl)pyrrolidine | COC1=C(C=CC=C1)C1CNCC1 | C11H15NO
reactant | HCl | 1.55 mmol, 32 mg | Cl | ClH
reactant | K2CO3 | 0.342 mmol, 47 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-[(S)-1-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)methyl]-3-(2-methoxy-phenyl)-pyrrolidine | O1[C@H](COC2=C1C=CC=C2)CN2CC(CC2)C2=C(C=CC=C2)OC | C20H23NO3
